US05952386
A solution of 0.20 g of 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene and 0.14 g of 4-trifluoromethoxyphenyl isocyanate dissolved in 10 ml of toluene was heated under reflux, while stirring, for 12 hours, and the reaction mixture was then concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.15 g of 3,5-dichloro-4-(2-(N'-(4-trifluoromethoxyphenyl)ureido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene (46% yield), m.p., 125.4° C.

reactant | 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g | ClC=1C=C(C=C(C1OCCN)Cl)OCC=C(Cl)Cl | C11H11Cl4NO2
reactant | 4-trifluoromethoxyphenyl isocyanate | 0.14 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-dichloro-4-(2-(N'-(4-trifluoromethoxyphenyl)ureido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.15 g, 46% yield | ClC=1C=C(C=C(C1OCCNC(=O)NC1=CC=C(C=C1)OC(F)(F)F)Cl)OCC=C(Cl)Cl | C19H15Cl4F3N2O4
